US05840917
5-Bromo-3-thiophenecarboxylic acid (4.14 g) was dissolved in tetrahydrofuran (50 ml), and the mixture was cooled to -78° C. n-Butyllithium (1.6M in hexane, 27.5 ml) was slowly added dropwise. The resulting mixture was stirred at the same temperature for 1 hour, and N,N-dimethylformamide (3.1 ml) was added. The mixture was warmed slowly to room temperature and concentrated under reduced pressure. The concentrate was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crude product of 5-formyl-3-thiophenecarboxylic acid (3.12 g). 5-Formyl-3-thiophenecarboxylic acid (3.12 g) was dissolved in N,N-dimethylformamide (50 ml), and iodoethane (1.58 ml) and potassium carbonate (2.76 g) were added. The mixture was stirred at room temperature for 15 hours, poured into water and extracted with ethyl acetate. The extract was washed with 5 % potassium hydrogen sulfate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 5-formyl-3-thiophenecarboxylic acid ethyl ester (0.71 g). 5-Formyl-3-thiophenecarboxylic acid ethyl ester (1.47 g) synthesized in this manner in methylene chloride (10 ml) was slowly added dropwise to diethylaminosulfur trifluoride (DAST) (1.2 ml) in methylene chloride (10 ml) at room temperature. The mixture was stirred at room temperature for 15 hours, and saturated aqueous sodium bicarbonate was added. The organic layer was collected, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 5-difluoromethyl-3-thiophenecarboxylic acid ethyl ester (0.7 g). 5-Difluoromethyl-3-thiophenecarboxylic acid ethyl ester was dissolved in a mixture of ethanol (5 ml) and tetrahydrofuran (5 ml), and 1N aqueous sodium hydroxide (5 ml) was added. The mixture was stirred at room temperature for 1 hour and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5-difluoromethyl-3-thiophenecarboxylic acid (0.58 g) as crystals.

reactant | 5-Bromo-3-thiophenecarboxylic acid | 4.14 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | n-Butyllithium | 1.6M, 27.5 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 3.1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-formyl-3-thiophenecarboxylic acid | 3.12 g | C(=O)C1=CC(=CS1)C(=O)O | C6H4O3S
